US06800651B2
3-(2-Methoxyphenylsulfinyl)aniline
1-Methoxy-2-(3-nitrophenylsulfinyl)benzene (217 mg, 0.78 mmol) was dissolved in ethyl alcohol (5.0 ml) and water (1.75 ml), to which was added iron powder (488 mg, 8.7 mmol) and ammonium chloride (77 mg, 1.4 mmol). This mixture was heated to reflux for four hours, cooled to room temperature and the supernatant decanted. The insoluble material was rinsed with methylene chloride, followed by aqueous 1M potassium carbonate. All decanted solutions were combined and the organic layer separated. The aqueous layer was extracted again with methylene chloride, and the combined organics washed once with brine. After drying over magnesium sulfate and concentration in vacuo, the title compound was obtained as a white solid (145 mg, 75%). 1H NMR(400 MHz): 3.89(3H,s), 6.69-6.74(1H,m), 6.86(1H,d,J=8.4), 7.03-7.09(2H,m), 7.10-7.20(2H,m), 7.38(1H,dt,J=8.3, 1.5), 7.86(1H,dd,J=7.8, 1.5).

reactant | 1-Methoxy-2-(3-nitrophenylsulfinyl)benzene | 0.78 mmol, 217 mg | COC1=C(C=CC=C1)S(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C13H11NO4S
reactant | ammonium chloride | 1.4 mmol, 77 mg | [Cl-].[NH4+]
solvent | ethyl alcohol | 5.0 ml | C(C)O | C2H6O
solvent | water | 1.75 ml | O | H2O
catalyst | iron | 8.7 mmol, 488 mg | [Fe] | Fe
product | 3-(2-Methoxyphenylsulfinyl)aniline | COC1=C(C=CC=C1)S(=O)C=1C=C(N)C=CC1 | C13H13NO2S
